US08134001B2
In a manner similar to the method described in example 1d, (R/S)-3-(4-bromo-2-formyl-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester (2.7 g, 7.4 mmol) was used as the starting material in place of 4-(2-formyl-4-iodo-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester to react with 1,1,3,3,3-hexamethyldisilazane (1.2 g, 7.4 mmol), n-butyllithium (2.5 M, 3 mL, 7.5 mmol), trimethylsilyl chloride (0.8 g, 7.4 mmol), triethylamine (1 g, 10 mmol) and acetyl chloride (0.79 g, 10 mmol) to give crude (R/S)-1-[5-bromo-2-(1-tert-butoxycarbonyl-3-pyrrolidinyloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | (R/S)-3-(4-bromo-2-formyl-phenoxy)-pyrrolidine-1-carboxylic acid tert-butyl ester | 7.4 mmol, 2.7 g | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C(C=C1)Br)C=O | C16H20BrNO4
reactant | 4-(2-formyl-4-iodo-phenoxymethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C(C=C1)I)C=O | C18H24INO4
reactant | 1,1,3,3,3-hexamethyldisilazane | 7.4 mmol, 1.2 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 7.5 mmol, 2.5 M, 3 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 7.4 mmol, 0.8 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 10 mmol, 1 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 10 mmol, 0.79 g | C(C)(=O)Cl | C2H3ClO
product | (R/S)-1-[5-bromo-2-(1-tert-butoxycarbonyl-3-pyrrolidinyloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1CN(CC1)C(=O)OC(C)(C)C | C21H31BrN2O4Si
